US07723368B2
Step 1) Phenyl-{3-[(triisopropylsilanyl)-ethynyl]-phenyl}-amine
Into two Biotage microwave process vials (0.5-2.0 ml) were divided 3-Bromodiphenylamine (636 mg, 2.56 mmol), triisopropylsilylacetylene (0.46 g, 2.56 mmol), copper iodide (20 mg, 0.356 mmol), tetrakis(triphenylphosphine)palladium (60 mg, 0.176 mmol) and triethylamine (3.40 g, 3.36 mmol). The vials were quickly agitated then irradiated in a Biotage Initiator™ microwave instrument for 30 minutes at 80° C. The microwave reactions were recombined and purified by column chromatography (5% EtOAc/hexanes) to afford an oil 698 mg (78%). 1H NMR (400 MHz, DMSO-d6) δ ppm 1.05 (s, 21H) 6.82-6.86 (m, 2H) 7.00-7.12 (m, 4H) 7.15-7.28 (m, 3H) 8.23 (s, 1H); MS (ES) m/z 350.2 [M+H]+

reactant | 3-Bromodiphenylamine | 2.56 mmol, 636 mg | C1=CC=C(C=C1)NC2=CC(=CC=C2)Br | C12H10BrN
reactant | triisopropylsilylacetylene | 2.56 mmol, 0.46 g | C(C)(C)[Si](C(C)C)(C(C)C)C#C | C11H22Si
reactant | triethylamine | 3.36 mmol, 3.40 g | C(C)N(CC)CC | C6H15N
catalyst | copper iodide | 0.356 mmol, 20 mg | [Cu](I)I
catalyst | tetrakis(triphenylphosphine)palladium | 0.176 mmol, 60 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | Phenyl-{3-[(triisopropylsilanyl)-ethynyl]-phenyl}-amine | 698 mg, 78% | C1(=CC=CC=C1)NC1=CC(=CC=C1)C#C[Si](C(C)C)(C(C)C)C(C)C | C23H31NSi
